US07812183B2
and 4-[5-(4-Chloro-phenyl)-imidazol-1-yl]-2,2-dimethyl-2H-chromene-6-carbonitrile (Compound #63)
Following the procedure in Example 1, using (±)-2,2-dimethyl-1a,7b-dihydro-2H-1,3-dioxa-cyclopropa[a]naphthalene-6-carbonitrile and 5-(4-chloro-phenyl)-1H-imidazole as starting materials, the title compounds were prepared as white solid.

reactant | (±)-2,2-dimethyl-1a,7b-dihydro-2H-1,3-dioxa-cyclopropa[a]naphthalene-6-carbonitrile | CC1(C2C(C3=CC(=CC=C3O1)C#N)O2)C | C12H11NO2
reactant | 5-(4-chloro-phenyl)-1H-imidazole | ClC1=CC=C(C=C1)C1=CN=CN1 | C9H7ClN2
product | 4-[5-(4-Chloro-phenyl)-imidazol-1-yl]-2,2-dimethyl-2H-chromene-6-carbonitrile | ClC1=CC=C(C=C1)C1=CN=CN1C1=CC(OC2=CC=C(C=C12)C#N)(C)C | C21H16ClN3O
